US04348410
A suspension of trans-4-guanidinomethylcyclohexanecarboxylic acid hydrochloride (11.8 g), phenol (5.6 g), and dicyclohexylcarbodiimide (12.4 g) in pyridine (75 ml) was stirred overnight at room temperature. After evaporation of solvent, the residue was treated with 0.1 N hydrochloric acid (200 ml), the insoluble materials removed by filtration and the filtrate was washed with ethylacetate. The aqueous layer was concentrated to 100 ml, the resulting crystals were filtered and washed with isopropylalcohol/isopropylether to give phenyl trans-4-guanidinomethylcyclohexanecarboxylate hydrochloride (12.5 g, 80.2%), m.p. 150°-153° C. This compound was recrystallized from methanol to give white crystal, phenyl trans-4-guanidinomethylcyclohexanecarboxylate hydrochloride, m.p. 159.5°-161.5° C.

reactant | trans-4-guanidinomethylcyclohexanecarboxylic acid hydrochloride | 11.8 g | Cl.N(C(=N)N)C[C@@H]1CC[C@H](CC1)C(=O)O
reactant | phenol | 5.6 g | C1(=CC=CC=C1)O | C6H6O
reactant | dicyclohexylcarbodiimide | 12.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 75 ml | N1=CC=CC=C1 | C5H5N
product | phenyl trans-4-guanidinomethylcyclohexanecarboxylate hydrochloride | 12.5 g, 80.2% | Cl.N(C(=N)N)C[C@@H]1CC[C@H](CC1)C(=O)OC1=CC=CC=C1 | InChI=1S/C15H21N3O2.ClH/c16-15(17)18-10-11-6-8-12(9-7-11)14(19)20-13-4-2-1-3-5-13;/h1-5,11-12H,6-10H2,(H4,16,17,18);1H/t11-,12-;
